US08710243B2
Hydroxylamine (16.3 M solution in water, 0.69 mL, 11.0 mmol) was added to 5-chloro-2-(2,4-dimethylthiophen-3-yl)-3-(4-hydroxyphenyl)-1H-indole-1-carbonitrile (42 mg, 0.11 mmol) in DCM (5 mL) at 0° C. and the reaction was stirred at 0° C. for 65 h. Brine was added and the aqueous mixture was extracted with DCM. The solvent was concentrated and the crude product was purified by preparative HPLC to give 5-chloro-2-(2,4-dimethylthiophen-3-yl)-N′-hydroxy-3-(4-hydroxyphenyl)-1H-indole-1-carboximidamide (7.0 mg, 35%). Identification of the title compound by 1H-NMR showed that the oxime product was a single isomer, but did not confirm whether the (E) or (Z) oxime isomer had been obtained. ES/MS m/z: 414.5; 412.4 (M+H), 412.3; 409.9 (M−H); 1H NMR (acetone-d6, 500 MHz): 7.65 (d, 1H, J=2.1 Hz), 7.58 (d, 1H, J=8.8 Hz), 7.25 (dd, 1H, J=8.8, 2.1 Hz), 7.10 (m, 2H), 6.83-6.80 (m, 3H), 2.18 (s, 3H) and 1.95 (d, 3H, J=1.1 Hz).

reactant | Hydroxylamine | 11.0 mmol, 16.3 M, 0.69 mL | NO | H3NO
reactant | 5-chloro-2-(2,4-dimethylthiophen-3-yl)-3-(4-hydroxyphenyl)-1H-indole-1-carbonitrile | 0.11 mmol, 42 mg | ClC=1C=C2C(=C(N(C2=CC1)C#N)C1=C(SC=C1C)C)C1=CC=C(C=C1)O | C21H15ClN2OS
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | Brine | [Cl-].[Na+].O
product | 5-chloro-2-(2,4-dimethylthiophen-3-yl)-N′-hydroxy-3-(4-hydroxyphenyl)-1H-indole-1-carboximidamide | 7.0 mg, 35% | ClC=1C=C2C(=C(N(C2=CC1)C(N)=NO)C1=C(SC=C1C)C)C1=CC=C(C=C1)O | C21H18ClN3O2S
